US07659394B2
(R)-2-[(S)-(2-,4-Difluoro-phenoxy)-pyridin-3-yl-methyl]-morpholine was synthesized via morpholin-2-yl-pyridin-3-yl-methanol from 2-bromopyridine and 2,4-difluorophenol according to general procedure C and was isolated as a gummy oil. MS (APCI): 307 [M+H]+.

reactant | morpholin-2-yl-pyridin-3-yl-methanol | N1CC(OCC1)C(O)C=1C=NC=CC1 | C10H14N2O2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | (R)-2-[(S)-(2-,4-Difluoro-phenoxy)-pyridin-3-yl-methyl]-morpholine | FC1=C(O[C@H]([C@H]2CNCCO2)C=2C=NC=CC2)C=CC(=C1)F | C16H16F2N2O2
